US03980798
triphenyl tin hydroxide (FENTINHYDROXID)
triphenyl tin acetate (FENTINACETAT) and further organic tin compounds

reactant | triphenyl tin acetate | C(C)(=O)[O-].C1(=CC=CC=C1)[Sn+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | tin | [Sn] | Sn
product | triphenyl tin hydroxide | [OH-].C1(=CC=CC=C1)[Sn+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/3C6H5.H2O.Sn/c3*1-2-4-6-5-3-1;;/h3*1-5H;1H2;/q;;;;+1/p-1
